* SPICE3 file created from negdff3.ext - technology: sky130A


X0 a_570_1300# a_100_850# VP VP sky130_fd_pr__pfet_01v8 ad=0.125 pd=1.25 as=0.5 ps=3 w=1 l=0.15
X1 VP Q Qb1 VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X2 Qb1 a_20_230# a_570_1730# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.125 ps=1.25 w=1 l=0.15
X3 VP Qb1 Q VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X4 VN a_100_420# a_100_850# VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X5 a_100_420# a_100_850# a_n110_1730# VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X6 VN a_100_850# a_390_850# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X7 Q a_20_230# a_570_1300# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.125 ps=1.25 w=1 l=0.15
X8 VN a_100_850# a_100_420# VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X9 a_n110_1730# a_20_230# VP VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X10 a_100_850# a_20_230# a_20_850# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.125 ps=1.25 w=1 l=0.15
X11 a_100_850# a_100_420# a_n110_1300# VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X12 Q Qb1 a_390_850# VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X13 VN a_100_420# a_390_420# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X14 VP Db1 a_n110_1730# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X15 a_390_850# a_20_230# VN VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X16 a_n110_1300# a_20_230# VP VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X17 a_20_850# D VN VN sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.25 as=0.5 ps=3 w=1 l=0.15
X18 a_100_420# a_20_230# a_20_420# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.125 ps=1.25 w=1 l=0.15
X19 Qb1 Q a_390_420# VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X20 VP D a_n110_1300# VP sky130_fd_pr__pfet_01v8 ad=0.25 pd=1.5 as=0.5 ps=3 w=1 l=0.15
X21 a_390_420# a_20_230# VN VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X22 a_20_420# Db2 VN VN sky130_fd_pr__nfet_01v8 ad=0.125 pd=1.25 as=0.5 ps=3 w=1 l=0.15
X23 a_570_1730# a_100_420# VP VP sky130_fd_pr__pfet_01v8 ad=0.125 pd=1.25 as=0.5 ps=3 w=1 l=0.15
.ends

